US08648066B2
2-Methylpropyl 5-bromo-4-fluoro-2-methyl-1H-benzimidazole-1-carboxylate.
Synthesized according to the method of reagent preparation 19 using 5 4-bromo-3-fluorobenzene-1,2-diamine and acetylation with acetic anhydride in tetrahydrofurane in step 1 then treatment with isobutyl chloroformate in step 3. MS (EI) for C13H14BrN2O2: 328, 330 (MH+, Br isotope pattern).

reactant | 4-bromo-3-fluorobenzene-1,2-diamine | BrC=1C(=C(C(=CC1)N)N)F | C6H6BrFN2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 2-Methylpropyl 5-bromo-4-fluoro-2-methyl-1H-benzimidazole-1-carboxylate | BrC1=C(C2=C(N(C(=N2)C)C(=O)OCC(C)C)C=C1)F | C13H14BrFN2O2
